US06943267B1
Isobutylene was passed through a suspension of 7-bromomethylnaphthalene-1-carboxylic acid (10.4 g, 39.2 mmol) in dichloromethane (150 mL) in the presence of concentrated sulfuric acid (1 mL) for 3 hours, and then the mixture was stirred overnight. The resulting deep green solution was washed with a saturated solution of sodium hydrogen carbonate, dried (magnesium sulfate) and the solvent was removed under reduced pressure to give crude 7-bromomethylnaphthalene-1-carboxylic acid tert-butyl ester (11.2 g, 88.8%) as a deep green oil. This compound was directly used for the subsequent Michaelis-Becker alkylation without further purification.

reactant | Isobutylene | CC(C)=C | C4H8
reactant | 7-bromomethylnaphthalene-1-carboxylic acid | 39.2 mmol, 10.4 g | BrCC1=CC=C2C=CC=C(C2=C1)C(=O)O | C12H9BrO2
reactant | sulfuric acid | 1 mL | S(O)(O)(=O)=O | H2O4S
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 7-bromomethylnaphthalene-1-carboxylic acid tert-butyl ester | 11.2 g, 88.8% | C(C)(C)(C)OC(=O)C1=CC=CC2=CC=C(C=C12)CBr | C16H17BrO2
